US07696352B2
5-Chloro-N-((1-(4-(2-oxopiperazin-1-yl)phenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide (83)
A mixture of 5-chloro-N-((1-(4-iodophenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide (100 mg, 0.22 mmol), 4-N-Boc-2-oxo-piperazine (88 mg, 0.44 mmol), CuI (13 mg, 0.066 mmol), N,N′-dimethylethylenediamine (8 μL, 0.066 mmol), potassium carbonate (61 mg, 0.44 mmol) in 5 mL dioxane in a sealed tube was stirred for 2 days at 120° C. The mixture was diluted with ethyl acetate (200 mL). It was washed with brine, dried, and concentrated in vacuo. The residue was treated with neat TFA for 15 min and directly subjected to prep HPLC to isolate the title compound. MS found for C18H17ClN6O2S (M+H)+ 417.1, 419.1 (Cl pattern).

reactant | 5-chloro-N-((1-(4-iodophenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide | 0.22 mmol, 100 mg | ClC1=CC=C(S1)C(=O)NCC=1N=NN(C1)C1=CC=C(C=C1)I | C14H10ClIN4OS
reactant | 4-N-Boc-2-oxo-piperazine | 0.44 mmol, 88 mg | C(=O)(OC(C)(C)C)N1CC(NCC1)=O | C9H16N2O3
reactant | N,N′-dimethylethylenediamine | 0.066 mmol, 8 μL | CNCCNC | C4H12N2
reactant | potassium carbonate | 0.44 mmol, 61 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | CuI | 0.066 mmol, 13 mg | [Cu]I
product | 5-Chloro-N-((1-(4-(2-oxopiperazin-1-yl)phenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide | ClC1=CC=C(S1)C(=O)NCC=1N=NN(C1)C1=CC=C(C=C1)N1C(CNCC1)=O | C18H17ClN6O2S
